US05142022
Benzoylformic acid, 25 g, and 11.25 g of acetone in 30 g of acetic acid and 45 g of concentrated sulfuric acid were heated at 105° C.-110° C. for 1 hour. After the resulting mixture was cooled to ambient temperature, it was poured onto ice and the mixture was allowed to warm to room temperature. The suspended particles were recovered by filtration and recrystallized from ethanol to give 3,8-diphenyl-2,7-dioxo-1,6-dioxaspiro[4.4]nona-3,8-diene, m.pt. 235°-237° C., as white powder. Infrared and nuclear magnetic resonance spectra of the powder were consistent with this structure.

reactant | Benzoylformic acid | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | acetone | 11.25 g | CC(=O)C | C3H6O
reactant | sulfuric acid | 45 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 30 g | C(C)(=O)O | C2H4O2
product | 3,8-diphenyl-2,7-dioxo-1,6-dioxaspiro[4.4]nona-3,8-diene | C1(=CC=CC=C1)C=1C(OC2(C1)OC(C(=C2)C2=CC=CC=C2)=O)=O | C19H12O4
